US08420690B2
c) N-((1S)-2-amino-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-furancarboxamide
N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-furancarboxamide (200 mg, 0.38 mmol) was dissolved in THF (10 mL) and MeOH (10 mL) at RT and treated with hydrazine (0.19 mL, 3.8 mmole). After 24 h, the solution was concentrated and purified on silica using 8% MeOH in DCM (1% NH4OH) to give the title compound as a white solid. The free base was dissolved in DCM (5 mL) and treated with 4M HCl in dioxane (4 mL). After 5 min, the reaction solution was concentrated under vacuum to give the title compound (55 mg) as a di-HCl salt: LC-MS (ES) m/z=393 (M+H)+, 1H NMR (d6-DMSO) δ 8.78 (d, J=8.9 Hz, 1H), 8.38 (s, 1H), 8.16 (bs, 2H), 7.69 (d, J=7.6 Hz, 1H), 7.59 (m, 2H), 7.49 (s, 1H), 7.44 (m, 1H), 7.35 (s, 1H), 6.58 (s, 1H), 4.52 (m, 1H), 3.99 (s, 3H), 3.22 (m, 2H) and 3.07 (m, 2H).

reactant | N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-furancarboxamide | 0.38 mmol, 200 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=COC(=C1)C1=CC=NN1C | C27H21F3N4O4
reactant | MeOH | 10 mL | CO | CH4O
reactant | hydrazine | 3.8 mmole, 0.19 mL | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-((1S)-2-amino-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-furancarboxamide | NC[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=COC(=C1)C1=CC=NN1C | C19H19F3N4O2
